US09126950B2
Synthesis of N4-(3-aminophenyl)-5-fluoro-N2-(4-(2-methoxyethoxy)phenyl)pyrimidine-2,4-diamine (I-28)
To a solution of tert-butyl (3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate (550 mg, 1.17 mmol) in DCM (20 mL) was added TFA (2 mL). Stirred for 30 min at rt for 4 h; removed solvent via rotary evaporation and partitioned oil with cold (0° C.) saturated sodium bicarbonate (10 mL) and EtOAc (10 mL), agitated and separated layers. Organic phase was dried over sodium sulfate and the solvent was removed via rotary evaporation to give a dark oil. Flash chromatography using 20%-100% Heptane/EtOAc gradient using combiflash system gave 309 mg of a light pink solid. LC/MS (RT=2.78/(M+1)) 370.2.

reactant | tert-butyl (3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate | 1.17 mmol, 550 mg | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOC)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C24H28FN5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Heptane EtOAc | CCCCCCC.CCOC(=O)C
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N4-(3-aminophenyl)-5-fluoro-N2-(4-(2-methoxyethoxy)phenyl)pyrimidine-2,4-diamine | 309 mg | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCCOC | C19H20FN5O2
